US06992087B2
Preparation of 5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-ylamine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but substituting 5-methyl-6,7-dihydro-1-benzothiophen-4(5H)-one and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.12-6.99, 4.13, 3.89, 3.51, 2.86-2.74, 2.13-1.98, 1.75, 1.65, 1.15, 1.07.

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 5-methyl-6,7-dihydro-1-benzothiophen-4(5H)-one | CC1CCC2=C(C=CS2)C1=O | C9H10OS
product | 5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-ylamine | CC1CCC2=C(C=CS2)C1N | C9H13NS
